US06667404B2
C. (2S,3R,4S,5S)-5-Amino-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane
A solution of 0.133 mmol of (2S,3R,4S,5S)-2,5-diamino-3,4-dihydroxy-1,6-diphenylhexane and 0.147 mmol of ((5-thiazolyl)methyl)-(4-nitrophenyl)carbonate in 10 ml of tetrahydrofuran was stirred at ambient temperature for 16 h. The resulting solution was diluted with 50 ml of chloroform, washed with several portions of 3N aqueous NaOH, dried over Na2SO4, and concentrated in vacuo. Silica gel chromatography of the residue provided the desired compound.

reactant | (2S,3R,4S,5S)-2,5-diamino-3,4-dihydroxy-1,6-diphenylhexane | 0.133 mmol | N[C@@H](CC1=CC=CC=C1)[C@H]([C@H]([C@H](CC1=CC=CC=C1)N)O)O | C18H24N2O2
reactant | ((5-thiazolyl)methyl)-(4-nitrophenyl)carbonate | 0.147 mmol | C1=CC(=CC=C1[N+](=O)[O-])OC(=O)OCC2=CN=CS2 | C11H8N2O5S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (2S,3R,4S,5S)-5-Amino-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane | N[C@H]([C@@H]([C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O)O)CC1=CC=CC=C1 | C23H27N3O4S
